US08710061B2
A solution of 8-phenyl-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione (Intermediate I(3)) (2.58 g, 10.52 mmol) in ammonium hydroxide (28.7 mL, 736 mmol) was heated to 80° C. in a sealed tube and stirred overnight. The reaction mixture was then concentrated to dryness giving 8-phenyl-7,8-dihydro-1H-pyrano[4,3-d]pyrimidine-2,4(3H,5H)-dione. The crude material was carried on as-is. LC-MS (M+H)+=245.2.

reactant | 8-phenyl-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione | 10.52 mmol, 2.58 g | C1(=CC=CC=C1)C1COCC=2C(NC(OC21)=O)=O | C13H11NO4
reactant | ammonium hydroxide | 736 mmol, 28.7 mL | [OH-].[NH4+]
product | 8-phenyl-7,8-dihydro-1H-pyrano[4,3-d]pyrimidine-2,4(3H,5H)-dione | C1(=CC=CC=C1)C1COCC2=C1NC(NC2=O)=O | C13H12N2O3
